US05234931
e. 3-(1,2-Benzisoxazol-3-yl)-8-azabicyclo[3.2.1]octane hydrochloride
Vinyl chloroformate (3.6 g) was added dropwise to a solution of 3-(1,2-benzisoxazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane (6.0 g) in 125 ml of 1,2-dichloroethane at 0° C. The resulting suspension was heated at reflux for 3 hours, the solution was cooled, and the solvent was removed in vacuo. The residue was suspended in 125 ml of ethanol and acidified with HCl in isopropanol (to about a pH of 1), and the mixture was heated at reflux for 2 hours. The mixture was cooled, and 3.9 g of 3-(1,2-benzisoxazol-3-yl)-8-azabicyclo[3.2.1]octane hydrochloride crystallized, m.p. 264°-268° C.

reactant | Vinyl chloroformate | 3.6 g | ClC(=O)OC=C | C3H3ClO2
reactant | 3-(1,2-benzisoxazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane | 6.0 g | O1N=C(C2=C1C=CC=C2)C2CC1CCC(C2)N1C | C15H18N2O
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
product | 3-(1,2-Benzisoxazol-3-yl)-8-azabicyclo[3.2.1]octane hydrochloride | Cl.O1N=C(C2=C1C=CC=C2)C2CC1CCC(C2)N1 | InChI=1S/C14H16N2O.ClH/c1-2-4-13-12(3-1)14(16-17-13)9-7-10-5-6-11(8-9)15-10;/h1-4,9-11,15H,5-8H2;1H
